US06514968B1
Preparation 20 8-Fluoro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one
8-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.1416 g, 0.70 mmol) is added to a slurry of pentane-washed NaH (0.0400 g, 0.0010 mol) in DMF (2 mL) and after stirring for 30 min, p-fluorobenzyl bromide (0.11 mL, 0.88 mmol) is added. After the mixture had stirred for 2.3 h, it is partitioned between aq. sodium bicarbonate and ethyl acetate. The organic layer is dried over sodium sulfate and concentrated to dryness. The resulting solids are chromatographed on silica gel (100 mL) using first dichloromethane (100%) and then methanol/dichloromethane (2/98). The product fractions are combined and rechromatographed on silica gel (50 mL) using acetone/heptane/NH4OH (15/85/0.25) and then recrystallized using ethyl acetate/hexane to give 0.0932 g (43%) of the title compound; mp 177-178° C.; MS (ESI−) for C19H15F2NO m/z 310.1 (M−H)−; IR (drift) 1638, 1630, 1509, 1496, 1459, 1436, 1413, 1361, 1249, 1222, 1194, 1158, 1125, 830, 790 cm−1; 1H NMR (CDCl3) δ2.24, 2.58, 2.86, 5.47, 6.89-7.02, 7.16, 8.06. Anal. Calcd for C19H15F2NO: C, 73.30; H, 4.86; N, 4.50. Found: C, 73.40; H, 4.83; N, 4.50.

reactant | 8-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.70 mmol, 0.1416 g | FC=1C=CC=C2C=3C(CCCC3NC12)=O | C12H10FNO
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.0010 mol, 0.0400 g | [H-].[Na+]
reactant | p-fluorobenzyl bromide | 0.88 mmol, 0.11 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 8-Fluoro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0932 g, 43% | FC=1C=CC=C2C=3C(CCCC3N(C12)CC1=CC=C(C=C1)F)=O | C19H15F2NO
